US04066456
a. Preparation of 2-carboxy-5-ethoxy-4-nitro-N-methyl-N-tetradecylaniline
A mixture of 24.5g 2-chloro-4-ethoxy-5-nitrobenzoic acid, 22.7g methyl tetradecylamine (distilled) and 35.0 ml triethylamine were heated on a steam bath for 5 hours and then poured into two liters of water and made acid with HCl. The reaction product was filtered and washed with water, and recrystallized twice from methanol/water.

reactant | 2-chloro-4-ethoxy-5-nitrobenzoic acid | 24.5g | ClC1=C(C(=O)O)C=C(C(=C1)OCC)[N+](=O)[O-] | C9H8ClNO5
reactant | methyl tetradecylamine | 22.7g | CNCCCCCCCCCCCCCC | C15H33N
reactant | triethylamine | 35.0 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | water | two liters | O | H2O
product | 2-carboxy-5-ethoxy-4-nitro-N-methyl-N-tetradecylaniline | C(=O)(O)C1=C(N(CCCCCCCCCCCCCC)C)C=C(C(=C1)[N+](=O)[O-])OCC | C24H40N2O5
